US09382238B2
A mixture of 2-(1,1,1-trifluoro-2-methylpropan-2-yl)-4H-pyran-4-one (800 mg, 3.88 mmol) in NH4OH (8 mL, 205 mmol) was stirred at 90° C. for 1 h. Then the mixture was concentrated, triturated with MeOH (20 mL) and filtered. The filtrate was concentrated and purified by silica column chromatography (DCM/MeOH=9:1). All fractions found to contain product by TLC (DCM/MeOH=9:1, Rf=0.2) were combined and concentrated to yield a yellow oil of 2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one (700 mg, 2.90 mmol, 74.7% yield): 1H NMR (400 MHz, CD3OD): δ 7.87 (d, J=7.2 Hz, 1H), 6.70 (d, J=2.4 Hz, 1H), 6.54 (dd, J=2.4, 7.2 Hz, 1H), 1.60 (s, 6H). ES-LCMS m/z 206.1 (M+H).

reactant | 2-(1,1,1-trifluoro-2-methylpropan-2-yl)-4H-pyran-4-one | 3.88 mmol, 800 mg | FC(C(C)(C)C=1OC=CC(C1)=O)(F)F | C9H9F3O2
reactant | NH4OH | 205 mmol, 8 mL | [NH4+].[OH-]
product | 2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one | 2.90 mmol, 700 mg, 74.7% yield | FC(C(C)(C)C=1NC=CC(C1)=O)(F)F | C9H10F3NO
